US05763450
500 mg of ethyl 2-(4-bromo-2-chloro-benzoyl)-3-[(tetrahydro-furan-2-ylmethyl)-amino]- acrylate and 148 mg of potassium t-butylate are held at 60° in 20 ml of DMSO for 30 mins. After chromatography on silica gel with ethyl acetate/hexane 1:1 343 mg of ethyl 7-bromo-4-oxo-1-(tetrahydro-furan-2-ylmethyl)-1,4-dihydro-quinoline-3-carboxylate are isolated as a yellowish oil. Yield: 75%. Mass spectrum: peaks inter alia at m/e: 380 (M++H, 100%).

reactant | ethyl 2-(4-bromo-2-chloro-benzoyl)-3-[(tetrahydro-furan-2-ylmethyl)-amino]- acrylate | 500 mg | BrC1=CC(=C(C(=O)C(C(=O)OCC)=CNCC2OCCC2)C=C1)Cl | C17H19BrClNO4
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | ethyl 7-bromo-4-oxo-1-(tetrahydro-furan-2-ylmethyl)-1,4-dihydro-quinoline-3-carboxylate | 343 mg, Yield: 75% | BrC1=CC=C2C(C(=CN(C2=C1)CC1OCCC1)C(=O)OCC)=O | C17H18BrNO4
